US09024027B2
To a solution of methyl 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetate (520 mg, 1.360 mmol) in a 1:1 mixture of THF and water (20 ml), lithium hydroxide (326 mg, 13.60 mmol) was added, and the mixture was reacted for 2 hours at room temperature. The organic layer was evaporated and 1N HCl was added to the reaction mixture (pH 5); the resulting solid was filtered off affording 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid that was used in the next step without any additional purification (450 mg, 1.221 mmol, 90% yield). MS/ESI+ 369.2 [MH]+.

reactant | methyl 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetate | 1.360 mmol, 520 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C2C=CN(C2=CC1)CC(=O)OC | C17H22N2O6S
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 13.60 mmol, 326 mg | [OH-].[Li+]
solvent | water | 20 ml | O | H2O
product | 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 90% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C2C=CN(C2=CC1)CC(=O)O | C16H20N2O6S
